US08227500B2
5-Benzyloxy-2-(3-cyano-4-phenylpyrrole-1-yl)isonicotinic acid ethyl ester
To a solution of 3-cyano-4-phenylpyrrole (0.20 g) in dimethylsulfoxide (2 mL) was added 5-benzyloxy-2-bromoisonicotinic acid ethyl ester (0.30 g), cesium carbonate (0.30 g), copper iodide (0.010 g) and N,N-dimethyl glycine (0.020 g) at room temperature, and this mixture was stirred at 110° C. for 8 hours. The insoluble material was removed by suction through a Celite pad. This filtrate was poured into water, and this mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=10/90−60/40) to give the title compound (0.20 g).

reactant | 3-cyano-4-phenylpyrrole | 0.20 g | C(#N)C1=CNC=C1C1=CC=CC=C1 | C11H8N2
reactant | 5-benzyloxy-2-bromoisonicotinic acid ethyl ester | 0.30 g | C(C)OC(C1=CC(=NC=C1OCC1=CC=CC=C1)Br)=O | C15H14BrNO3
reactant | cesium carbonate | 0.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethyl glycine | 0.020 g | CN(CC(=O)O)C | C4H9NO2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.010 g | [Cu](I)I
product | 5-Benzyloxy-2-(3-cyano-4-phenylpyrrole-1-yl)isonicotinic acid ethyl ester | 0.20 g | C(C)OC(C1=CC(=NC=C1OCC1=CC=CC=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)=O | C26H21N3O3
